US08357693B2
To tert-butyl 5-(2-(3-(2-methoxy-2-oxoacetamido)phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate (18 mg, 0.033 mmol) was added a solution of 1:1 TFA:CH2Cl2 (2 mL) and stirred at RT for 2 h. The reaction mixture was concentrated in vacuo and the residue was triturated with ethyl ether to get a yellow solid to afford methyl 2-(3-(4-(1H-indazol-5-ylamino)quinazolin-2-yl)phenylamino)-2-oxoacetate. (15 mg, 100%).

reactant | tert-butyl 5-(2-(3-(2-methoxy-2-oxoacetamido)phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate | 0.033 mmol, 18 mg | COC(C(=O)NC=1C=C(C=CC1)C1=NC2=CC=CC=C2C(=N1)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C)=O | C29H26N6O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | methyl 2-(3-(4-(1H-indazol-5-ylamino)quinazolin-2-yl)phenylamino)-2-oxoacetate | N1N=CC2=CC(=CC=C12)NC1=NC(=NC2=CC=CC=C12)C=1C=C(C=CC1)NC(C(=O)OC)=O | C24H18N6O3
